US09126998B2
tert-Butyl [2-(4,4-difluoropiperidin-1-yl)ethyl]carbamate
0.90 g of 4,4-difluoropiperidine hydrochloride (5.71 mmol, 1 equivalents) were initially charged in 56 ml of acetonitrile, 1.41 g of tert-butyl (2-bromoethyl)carbamate (6.28 mmol, 1.1 equivalents) and 3 ml of N,N-diisopropylethylamine (2.21 g, 17.13 mmol, 3 equivalents) were added and the mixture was stirred at 80° C. overnight. Twice, 0.4 equivalent of tert-butyl (2-bromoethyl)carbamate was added to the reaction solution, and in each case stirring was continued at 80° C. overnight. The mixture was concentrated and purified on a silica gel column (gradient: from cyclohexane/ethyl acetate: 3:1 to ethyl acetate). This gave 1.28 g (62% of theory; purity 73%) of the title compound.

reactant | 4,4-difluoropiperidine hydrochloride | 5.71 mmol, 0.90 g, 1 equivalents | Cl.FC1(CCNCC1)F
reactant | tert-butyl (2-bromoethyl)carbamate | 6.28 mmol, 1.41 g, 1.1 equivalents | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | N,N-diisopropylethylamine | 17.13 mmol, 3 ml, 2.21 g, 3 equivalents | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl (2-bromoethyl)carbamate | 0.4 equivalent | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
solvent | acetonitrile | 56 ml | C(C)#N | C2H3N
product | tert-Butyl [2-(4,4-difluoropiperidin-1-yl)ethyl]carbamate | FC1(CCN(CC1)CCNC(OC(C)(C)C)=O)F | C12H22F2N2O2
